US04572912
A mixture of 1.3 g of ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate (prepared as described in Preparation 45), 0.4 g of thiourea and 2 g of sulfolane was heated at 120°-130° C. for 4 hours under a nitrogen stream. Then 15 ml of ethylene glycol monomethyl ether, 4 ml of water and 2 ml of concentrated hydrochloric acid were added, in that order, to the reaction mixture, and heating was continued, but at 70°-90° C., for a further 2.5 days. Water was then added to the reaction mixture, after which it was extracted with benzene. The extract was washed with water and dried over anhydrous sodium sulfate. Benzene was distilled off from the extract. The residue was subjected to silica gel column chromatography, eluted with a 5:3 by volume mixture of hexane and ethyl acetate, to yield 5-[4-(6-hydroxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione. Its softening point was 79°-83° C.

reactant | ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | 1.3 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C27H31ClO7
reactant | thiourea | 0.4 g | NC(=S)N | CH4N2S
reactant | sulfolane | 2 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | Water | O | H2O
solvent | water | 4 ml | O | H2O
solvent | ethylene glycol monomethyl ether | 15 ml | COCCO | C3H8O2
product | 5-[4-(6-hydroxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O)C | C24H25NO6S
